US04136247
5,6-Dimethyl-2-Norbornene/1-Hexene Copolymer
2500 ml dry toluene cosolvent, 350 ml 5,6-dimethyl-2-norbornene, 20 ml 1-hexene solution, and 45 ml diethylaluminum iodide solution were charged to a dry, nitrogen-purged glass gallon reactor. 56 ml of the MoCl5 solution was charged last with shaking. After 1.5 hours the reaction was shortstopped using a mixture of 5 ml ethanolamine, 15 ml Solution A, 60 ml of an antioxidant solution (0.1 g/ml of 2,2'-methylenebis-[4-methyl-6-t-butylphenol] in toluene), and 100 ml toluene. The polymer cement was coagulated batch-wise in a Waring blender using excess Solution A. 270 grams of a solid, ring-opened 5,6-dimethyl-2-norbornene/1-hexene copolymer was recovered after being filtered and vacuum dried at 60° C.

reactant | 5,6-dimethyl-2-norbornene | 350 ml | CC1C2C=CC(C1C)C2 | C9H14
reactant | 1-hexene | 20 ml | C=CCCCC | C6H12
reactant | diethylaluminum iodide | 45 ml | [I-].C(C)[Al+]CC
solvent | toluene | 2500 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-Dimethyl-2-Norbornene 1-Hexene | CC1C2C=CC(C1C)C2.C=CCCCC | InChI=1S/C9H14.C6H12/c1-6-7(2)9-4-3-8(6)5-9;1-3-5-6-4-2/h3-4,6-9H,5H2,1-2H3;3H,1,4-6H2,2H3
